### PR TITLE
feat(GreensOpenProblems): 33

### PR DESCRIPTION
**Pull request by jeangud**
# Description
Are there infinitely many $q$ for which there is a set $A \subset \mathbb{Z}/q\mathbb{Z}$, $|A| = (\sqrt{2} + o(1))q^{1/2}$, with $A + A = \mathbb{Z}/q\mathbb{Z}$?

- #1589
- Opted for an $\varepsilon$ characterization of the $o(1)$, alternative was a heavier sequential characterization (both on $q$ and $A$), and `∃ᶠ` did not work nicely with `o[atTop]` ideas.
- First sequence-based draft obtain through Gemini 3.1 Pro, and then completely revamped to simplify with `∃ᶠ`.

# Testing
:white_check_mark: Builds successfully.
```shell
$ lake build FormalConjectures/GreensOpenProblems/33.lean 
Build completed successfully (7975 jobs).
````

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/33.lean [hunk 1]
```diff
@@ -0,0 +1,51 @@
...
+@[category research open, AMS 5 11]
+theorem green_33 :
+    answer(sorry) ↔
+      ∀ ε : ℝ, 0 < ε →
+        ∃ᶠ q : ℕ+ in atTop,
+          ∃ A : Finset (ZMod q),
+            A + A = Finset.univ ∧
+            |((A.card : ℝ) / Real.sqrt q - Real.sqrt 2)| < ε := by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/33.lean:48]:
```suggestion

/-- Trivial lower bound: if $A + A = \mathbb{Z}/q\mathbb{Z}$, then $|A|^2 \geq q$,
since the sumset $A + A$ has at most $|A|^2$ elements. -/
@[category test, AMS 5 11]
theorem green_33.sanity_sq_bound (q : ℕ+) (A : Finset (ZMod q))
    (hA : A + A = Finset.univ) : (q : ℕ) ≤ A.card ^ 2 := by
  calc (q : ℕ) = Fintype.card (ZMod q) := (ZMod.card q).symm
    _ = (Finset.univ : Finset (ZMod q)).card := Finset.card_univ.symm
    _ = (A + A).card := by rw [hA]
    _ ≤ A.card * A.card := Finset.card_add_le ..
    _ = A.card ^ 2 := (sq A.card).symm

```

perhaps a good test statement?

**Review by mo271 — APPROVED** [review]
Thanks, LGTM, just one suggestion for a trivial lower bound as test statement

**Comment by jeangud** [comment]
Good idea @mo271, thank you for reviewing, and for the contribution.

**Review by mo271 — APPROVED** [review]
Thanks!
